US06706751B2
To 304 mg (1 mmol) 6-Hydroxy-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester in 4 ml DMF 420 mg (3 mmol) K2CO3 (powdered) and 416 mg (2 mmol) 1,4-dibromobutene were added. The mixture was stirred at 50° C. for 1 h, diluted with EtOAc and water. 2M HCl was added and the inorganic phase was extracted with EtOAc. The combined organic phases were washed with water and dried over Na2SO4. The crude product was purified by column chromatography on silica gel with hexane/EtOAc 9:1 to 4:1 to yield 250 mg (46%) 6-(4-Bromo-but-2-enyloxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester as colorless gum, MS: 436 (MH+, 1Br, 1Cl).

reactant | 6-Hydroxy-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester | 1 mmol, 304 mg | ClC1=CC=C(C=C1)OC(=O)N1CCCC2=CC(=CC=C12)O | C16H14ClNO3
reactant | DMF | 3 mmol, 4 ml, 420 mg | CN(C)C=O | C3H7NO
reactant | 1,4-dibromobutene | 2 mmol, 416 mg | BrC=CCCBr | C4H6Br2
reactant | HCl | 2M | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-(4-Bromo-but-2-enyloxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester | 250 mg, 46% | ClC1=CC=C(C=C1)OC(=O)N1CCCC2=CC(=CC=C12)OCC=CCBr | C20H19BrClNO3
